US20010027196A1
2-Amino-4-(4,5-dihydro-furan-2-yl)-6-(2-phenylamino-ethylamino)-pyrimidine-5-carbonitrile
From trifluoromethanesulfonic acid 2-amino-5-cyano-6-(4,5-dihydro-furan-2-yl)-pyrimidin-4-yl ester and N-phenylethylenediamine in DME. ES-MS m/e (%): 323 (M+H+, 100).

reactant | trifluoromethanesulfonic acid 2-amino-5-cyano-6-(4,5-dihydro-furan-2-yl)-pyrimidin-4-yl ester | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)C#N)C=1OCCC1 | C10H7F3N4O4S
reactant | N-phenylethylenediamine | C1(=CC=CC=C1)NCCN | C8H12N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(4,5-dihydro-furan-2-yl)-6-(2-phenylamino-ethylamino)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OCCC1)C#N)NCCNC1=CC=CC=C1 | C17H18N6O
